US05658923
Triethylamine 1.00 ml was added in a methylene chloride 30 ml solution of (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 815 mg, and stirred at 0° C. for 30 min. 4-phenyl-2-adamantyl acetic acid 774 mg and WSC 1.65 g were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 16.5 hours. The reaction mixture was washed with 1N hydrochloric acid and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (IS)-3-(4-phenyl-2-adamantylacetyl)1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 30 ml solution of lithium aluminum hydride 229 mg and refluxed under heating for I hour. The reaction mixture was cooled, then added water and 2.5N sodium hydroxide thereto, and removed the insoluble material by filtration. The filtrate was concentrated in vacuo. The thus obtained residue was purified by means of flash column chromatography (Merck, silica gel 60: 230-400 mesh, chloroform) to obtain the product. Yield: 878 mg (Yield 78%)

reactant | Triethylamine | 1.00 ml | C(C)N(CC)CC | C6H15N
reactant | (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 815 mg | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 4-phenyl-2-adamantyl acetic acid | 774 mg | C1(=CC=CC=C1)C1C2C(C3CC(CC1C3)C2)CC(=O)O | C18H22O2
reactant | WSC | 1.65 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (IS)-3-(4-phenyl-2-adamantylacetyl)1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | Yield 78% | C1(=CC=CC=C1)C1C2C(C3CC(CC1C3)C2)CC(=O)N2C[C@]3(CCC(C2)C3(C)C)C | C28H39NO
